US07842696B2
DIPEA (77.35 mg, 0.60 mmol) was added to a stirred solution of biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt (70 mg, 0.16 mmol) in DMF (2 mL). HOBT (19.8 mg, 0.14 mmol) and EDCI.HCl (63.74 mg, 0.33 mmol) were then added. After 2 minutes 2,4-dimethylbenzoic acid (20 mg, 0.13 mmol) was added and the resulting mixture was stirred overnight. The reaction mixture was diluted with cold water and the product was precipitated and filtered to afford 50 mg (82.4% yield) of biphenyl-4-carboxylicacid {2-[4-(2,4-dimethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LC-MS purity: 95.3%, 1H NMR: (CDCl3) δ 7.9 (d, 2H), 7.6 (dd, 4H), 7.5 (t, 2H), 7.35 (t, 1H), 7.3 (s, 1H), 7.0 (s, 3H), 4.4-4.2 (d, 2H), 3.9-

reactant | DIPEA | 0.60 mmol, 77.35 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide TFA salt | 0.16 mmol, 70 mg | OC(=O)C(F)(F)F.O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1
reactant | HOBT | 0.14 mmol, 19.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.33 mmol, 63.74 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2,4-dimethylbenzoic acid | 0.13 mmol, 20 mg | CC1=C(C(=O)O)C=CC(=C1)C | C9H10O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylicacid {2-[4-(2,4-dimethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 50 mg, 82.4% yield | CC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=CC(=C1)C | C28H29N3O3
